US09301951B2
N1-(4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide
A mixture of 80 mg of N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(diethylamino)phenyl)isonicotinamide, 64 mg of 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid, 83 mg of HATU, and 190 μL of diisopropylethylamine in 0.5 mL of DMF was stirred at 60° C. for 2 h. The product was isolated by reverse phase chromatography eluting with 0.05% TFA in a water/acetonitrile gradient. This procedure gave 17.6 mg of product. 1H NMR (400 MHz, CD3OD, ppm): δ 9.54 (t, J=5.9 Hz, 1H), 8.98 (dd, J=5.2, 0.6 Hz, 1H), 8.88 (d, J=9.0 Hz, 1H), 8.49 (s, 1H), 8.26 (d, J=2.6 Hz, 1H), 8.20 (s, 1H), 8.16-8.10 (m, 1H), 7.90 (dd, J=5.2, 1.5 Hz, 1H), 7.80 (d, J=7.8 Hz, 1H), 7.75-7.63 (m, 4H), 7.63-7.50 (m, 2H), 4.74-4.67 (m, 2H), 4.21-4.03 (m, 2H), 3.99 (t, J=5.7 Hz, 2H), 3.90-3.69 (m, 4H), 3.76 (q, J=7.2 Hz, 4H), 3.54 (t, J=5.9 Hz, 2H), 3.34-3.18 (m, 2H), 3.10 (s, 3H), 1.22 (t, J=7.2 Hz, 6H). MS (ESI, m/z) 717.24 [M+H]+.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-(diethylamino)phenyl)isonicotinamide | 80 mg | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CC)CC)N)=O)C=CC1)(F)F | C24H25F3N4O
reactant | 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid | 64 mg | CN(C(=O)C=1C=C(C(=O)O)C=CC1)CCN1CCOCC1 | C15H20N2O4
reactant | HATU | 83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 190 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N1-(4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-morpholinoethyl)isophthalamide | 17.6 mg | C(C)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(CCN2CCOCC2)C)=CC=C1)=O)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C39H43F3N6O4
